US07691863B2
c) 6-Cyclopentylmethoxy-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid methyl ester
To a solution of 0.563 g (0.0017 mol) 5-bromo-3-cyclopentylmethoxy-2-pyrrolidin-1-yl-pyrazine in 4 mL methanol and 2 mL ethyl acetate was added 0.050 g PdCl2dppfCH2Cl2 and 0.48 mL (0.0035 mol) triethylamine and the mixture was stirred under an atmosphere of 70 bar carbon monoxide at 110° C. for 18 h in an autoclave. The solids were removed by filtration and the mother liquor was partitioned between water and ethyl acetate. The phases were separated and the organic phase was washed with water (2×) dried over sodium sulfate, evaporated and the residue was purified by chromatography on silica gel with dichloromethane:ethyl acetate=19:1 to yield 0.423 g of the title compound as slightly yellow orange crystals melting at 69-70° C.

reactant | 5-bromo-3-cyclopentylmethoxy-2-pyrrolidin-1-yl-pyrazine | 0.0017 mol, 0.563 g | BrC=1N=C(C(=NC1)N1CCCC1)OCC1CCCC1 | C14H20BrN3O
reactant | triethylamine | 0.0035 mol, 0.48 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
product | 6-Cyclopentylmethoxy-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid methyl ester | 0.423 g | COC(=O)C1=NC(=C(N=C1)N1CCCC1)OCC1CCCC1 | C16H23N3O3
